US06833378B2
6-(1-Ethyl-propoxy)-2,7-dimethyl-9-(2,4,6-trimethyl-phenyl)-7,9-dihydro-purin-8-one
The title compound was prepared by methylation of 6-(1-Ethyl-propoxy)-2-methyl-9-(2,4,6-trimethyl-phenyl)-7,9-dihydro-purin-8-one with lithium bis(trimethylsilyl)amide in THF, followed by quenching with methyl iodide. 1H NMR(CDCl3) d7.00(s,2H), 5.31(m,1H), 3.66(s,3H), 2.479s,3H), 2.33(s,3H), 2.06(s,6H), 1.79(m,4H), 1.01(t,6H) ppm.

reactant | 6-(1-Ethyl-propoxy)-2-methyl-9-(2,4,6-trimethyl-phenyl)-7,9-dihydro-purin-8-one | C(C)C(CC)OC1=C2NC(N(C2=NC(=N1)C)C1=C(C=C(C=C1C)C)C)=O | C20H26N4O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 6-(1-Ethyl-propoxy)-2,7-dimethyl-9-(2,4,6-trimethyl-phenyl)-7,9-dihydro-purin-8-one | C(C)C(CC)OC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1C)C)C)=O)C | C21H28N4O2
